US07612210B2
In one experiment, (Benzotriazol-1-yloxy)tris(dimethylamino)phosphonium hexafluorophosphate (41.73 g, 94.35 mmol) and triethylamine (88 mL, 630 mmol) were added to a mixture of (R)-2-(1-hydroxycyclohexyl)-2-(3-(trifluoromethoxy)phenyl)acetic acid (20.0 g, 62.9 mmol) and cis-2,6-dimethylpiperazine (7.17 g, 62.9 mmol) in methylene chloride (150 mL) at RT. After stirring for 18 h, the mixture was concentrated in vacuo. The residue was purified by flash chromatography on silica gel (50 to 100% ethyl acetate in heptane) to afford 1-(3,5-Dimethyl-piperazin-1-yl)-2-(R)-(1-hydroxy-cyclohexyl)-2-(3-trifluoromethoxy-phenyl)-ethanone (24.3 g, 93%).

reactant | (Benzotriazol-1-yloxy)tris(dimethylamino)phosphonium hexafluorophosphate | 94.35 mmol, 41.73 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 630 mmol, 88 mL | C(C)N(CC)CC | C6H15N
reactant | (R)-2-(1-hydroxycyclohexyl)-2-(3-(trifluoromethoxy)phenyl)acetic acid | 62.9 mmol, 20.0 g | OC1(CCCCC1)[C@H](C(=O)O)C1=CC(=CC=C1)OC(F)(F)F | C15H17F3O4
reactant | cis-2,6-dimethylpiperazine | 62.9 mmol, 7.17 g | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 1-(3,5-Dimethyl-piperazin-1-yl)-2-(R)-(1-hydroxy-cyclohexyl)-2-(3-trifluoromethoxy-phenyl)-ethanone | 24.3 g, 93% | CC1CN(CC(N1)C)C([C@H](C1=CC(=CC=C1)OC(F)(F)F)C1(CCCCC1)O)=O | C21H29F3N2O3
